US05696271
17.22 g of 4-ethoxy-2-oxo-3-butenoic acid prepared according to the method of L. Tietze et al. (Lutz-F. Tietze, Heinrich Meier and Edgar Voss, Synthesis 1988, 274) are dissolved in 50 ml of anhydrous ethanol, and 7.34 g of hydroxylamine hydrochloride is added thereto, and the mixture is stirred at room temperature for 4 hours. The reaction mixture is added with water and extracted with methylene chloride. The organic layer is washed with water, dried, and evaporated. The resulting residue is distilled under reduced pressure to yield 14.3 g of ethyl 5-ethoxyisoxazoline-3carboxylate. (yield 76%)

reactant | 4-ethoxy-2-oxo-3-butenoic acid | 17.22 g | C(C)OC=CC(C(=O)O)=O | C6H8O4
reactant | hydroxylamine hydrochloride | 7.34 g | Cl.NO
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-ethoxyisoxazoline-3carboxylate | 14.3 g, yield 76% | C(C)OC1CC(=NO1)C(=O)OCC | C8H13NO4
